data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH+:21](C)C(C)([O-])Cl.[OH2:10]>>[H:20][OH2+:10].CC([NH:21]C)([O-])Cl 10=20;20,21=21
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)CC2=CC=CO2)C.[OH-:10].C1=COC(=C1)CN.O>>CC1=C[CH:21]=[C:22]([N:23]1CC2=CC=CO2)C.[H:20][OH:10].C1=COC(=C1)CN.O 10=20;22,23=23;20,21=21,22
[H:10][AlH3-:11].CC[N:21]=[CH:20]C>>[H:10][CH:20](C)[N-:21]CC.[AlH3:11] 10,11=10,20;20,21=21
CC(C(C[N+](C)(C)C)C=O)[O:21][CH:20](C)[O-:10]>>C[CH:20]=[O:10].CC(C(C[N+](C)(C)C)C=O)[O-:21] 10=20;20,21=21
[B:20](OC1=C2C3=C(CC4C5(C3(CCN4CCCCCC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[OH-:10].CBr.O>>[B-:20]([OH:10])(OC1=C2C3=C(CC4C5(C3(CCN4CCCCCC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O 10=20,
C1=CC=C(C=C1)C(=[C-:10][Br:11])C2=CC=CC=C2.CC(C)(C)[OH+][K].CS(=O)C>>[C:10]=C(C1=CC=CC=C1)C2=CC=CC=C2.[Br-:11].CC(C)(C)[OH+][K].CS(=O)C 10,11=11
[H:20][Cl:21].CCC(C)C(C(=O)O)[NH2:10].CO>>[H:20][NH2+:10]C(C(C)CC)C(=O)O.[Cl-:21].CO 10=20;20,21=21
[H:20][NH+:21](CCN)C(C1=CC=CC=C1)(C(=O)C2=CC=CC=C2)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C(=O)C(C2=CC=CC=C2)([NH:21]CCN)O 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OC(=O)C2=CC=CC=C2)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC=C(C=C1)C(=O)O[C:22]2=[C:21](C=CC=C2)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][O:21]CCS(=O)C1=[N:10]C2=C(S1)C=CC=C2>>[H:20][N+:10]1=C(SC2=C1C=CC=C2)S(=O)CC[O-:21] 10=20;20,21=21
C1C=CC2[CH:10]1[C:11]([CH:20]2[Cl:21])(O)[O-:12]>>C1C=CC2[CH:10]1[CH:20]2[C:11](=[O:12])O.[Cl-:21] 10,11=10,20;20,21=21;12=11
C[C+:20]=O.[CH:11]1=[CH:10]OC=C1C#N>>C[C:20](=O)[CH:10]1[CH+:11]C(=CO1)C#N 10,11=10,20
CCOC(=O)C(=C(C)[NH2:10])C[C:20](=[O:21])C1=CC=CC=C1.CC(=O)O.O>>CCOC(=O)C1=C([NH2+:10][C:20](C1)(C2=CC=CC=C2)[O-:21])C.CC(=O)O.O 10=20;20,21=21
C[C+:20]=O.CO[C:11]1=[CH:10]C=CC=C1Br>>C[C:20](=O)[CH:10]1C=CC=C([C+:11]1OC)Br 10,11=10,20
CC(=C)CC[OH:10].C[C+:20](C)CCO>>CC(=C)CC[OH+:10][C:20](C)(C)CCO 10=20,
C1CNC2=[N:10]CCCN2C1.C1=CC=C(C=C1)C(=O)[CH2:20][Br:21]>>C1CNC2=[N+:10](CCCN2C1)[CH2:20]C(=O)C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
CCOP(=O)(C(C)C(=O)CC1CCC[C:20]1([OH:10])[OH+:21]CCO)OCC.CCO.O.[Cl-]>>C(CO)[OH:21].CCOP(=O)(C(C)C(=O)CC1CCC[C:20]1=[OH+:10])OCC.CCO.O.[Cl-] 10=20;20,21=21
[H:20][O+:21](CCCC)[Al-](CC(C)C)(CC(C)C)OCCCC.CCCC[OH:10]>>CCCCO[Al-](CC(C)C)(CC(C)C)[O:21]CCCC.[H:20][OH+:10]CCCC 10=20;20,21=21
[H:20][O:21][Si](C)(C)C.CC1CCC2=C[C:11](=[CH:10]CC12CCC#C)[O-:12].CO.O[K]>>[H:20][CH:10]1CC2(C(CCC2=C[C:11]1=[O:12])C)CCC#C.C[Si](C)(C)[O-:21].CO.O[K] 10,11=10,20;20,21=21;12=11
[H:20][N:21]([C:22](=[O:23])OC)N(C(=O)OC)[P+](C)(C)C.C1CC(=O)[N-:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.CO[C:22](=[N:21]N(C(=O)OC)[P+](C)(C)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC=C[CH+:22]1)C(C)C.OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)O.CC(C)[C:21]1=[CH:22]C=CC=C1 10=20;20,21=21,22
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=CC2=CC(=C(N=C2C=C1)Cl)C[O-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CC4=C(N=C5C=CC=CC5=C4)Cl)Br.C(Br)(Br)Br 10=20,
C[CH:20]([Cl:21])[Br:10]>>C[CH:20]=[Br+:10].[Cl-:21] 10=20;20,21=21
C1CCC(CC1)NC(=NC2CCCCC2)O[C:20](=[O:21])CCCC[NH2:10]>>C1CCC(CC1)NC(=NC2CCCCC2)O[C:20]3(CCCC[NH2+:10]3)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC(=O)CC)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)O[C:24]1=[CH:23][CH:22]=[C:21](C=C1)Br 10=20;20,21=21,22;22,23=23,24
[H:20][OH2+:21].C1=CC=C(C=C1)CC=C=[N-:10]>>[H:20][N:10]=C=CCC1=CC=CC=C1.[OH2:21] 10=20;20,21=21
[H:20][O+:21]=COC.OS(=O)(=O)[O-:10].CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)O>>[H:20][O:10]S(=O)(=O)O.COC=[O:21].CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)O 10=20;20,21=21
[H:20][O+:21]=C(C1CC2(C3C(=O)CC1CO3)C4=C(C=CC=C4)N(C2=O)OC)Cl.[Cl-:10]>>[H:20][Cl:10].CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)C(=[O:21])Cl 10=20;20,21=21
[H:20][OH2+:21].COC(=O)C(=CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=C(C2=CC=CC=C2)C3=CC=CC=C3)C(=O)[O-:10].CCO.CO.[Cl-]>>[H:20][O:10]C(=O)C(=C(C1=CC=CC=C1)C2=CC=CC=C2)C(=CC3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)C(=O)OC.[OH2:21].CCO.CO.[Cl-] 10=20;20,21=21
CC[OH:10].C1=C(C=C(C=C1F)F)C[C:20](=[OH+:21])O.OS(=O)(=O)[O-]>>CC[OH+:10][C:20](CC1=CC(=CC(=C1)F)F)(O)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
C[O:12][CH:11]=[CH:10]CCC[CH:20]=[S+:21]C1=CC=CC=C1.C(=O)(C(F)(F)F)[O-]>>C[O+:12]=[CH:11][CH:10]1CCC[CH:20]1[S:21]C2=CC=CC=C2.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
C[O-:10].C[Si:20](C)(C)[O+]=C>>C[O:10][Si-:20](C)(C)(C)[O+]=C 10=20,
[Li:20]N(C(C)C)C(C)C.[Li]OC(C1=CC=CC=C1)C(C)N(C)C(=[O:10])CC.CC(C)NC(C)C>>[Li]OC(C1=CC=CC=C1)C(C)N(C)C(=[O+:10][Li-:20]N(C(C)C)C(C)C)CC.CC(C)NC(C)C 10=20,
[H:20][O+:21](C1C(C(C2C(O1)COC(O2)C3=CC=C(C=C3)OC)C)C)P(OC)(OC)(OC)Br.C1=CC=[N:10]C=C1.[Br-]>>[H:20][N+:10]1=CC=CC=C1.CC1C(C(OC2C1OC(OC2)C3=CC=C(C=C3)OC)[O:21]P(OC)(OC)(OC)Br)C.[Br-] 10=20;20,21=21
CC[NH+:21]=[CH:20]C.C[OH:10]>>CC[NH:21][CH:20](C)[OH+:10]C 10=20;20,21=21
[H:20][OH+:21]C1(CCC(O1)CC2=C(C=C(C=C2)C)OC)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC1=CC(=C(C=C1)CC2CCC(O2)([OH:21])OC)OC 10=20;20,21=21
